US04536518
(B) 4-(4-Fluorophenyl)-4-phenylbut-3-enoic Acid
3-Ethoxycarbonyl-4-(4-fluorophenyl)-4-phenylbut-3-enoic acid (47 g., 0.143 mole) was added to a mixture of glacial acetic acid (1000 ml.) and 48% aqueous hydrobromic acid (500 ml.), and the resulting mixture stirred at reflux for 16 hours. The reaction mixture was then concentrated under vacuum and the concentrate extracted with ether (3×500 ml.). The combined ether extract was extracted with 4% aqueous ammonium hydroxide (5×200 ml.). The combined aqueous extract was acidified with 6N hydrochloric acid to a pH of 6.5 and extracted again with ether (3×250 ml.). The combined ether extract was dried (MgSO4), filtered and evaporated under vacuum to an oil, which solidified on standing. Trituration with hexane gave 15 g. of the named product (47% yield, m.p. 98°-100° C., elemental analysis calculated: 74.99% C.; 5.11% H; 7.41% F; found: 74.69% C; 5.40% H; 7.17% F).

reactant | 3-Ethoxycarbonyl-4-(4-fluorophenyl)-4-phenylbut-3-enoic acid | 0.143 mole, 47 g | C(C)OC(=O)C(CC(=O)O)=C(C1=CC=CC=C1)C1=CC=C(C=C1)F | C19H17FO4
reactant | hydrobromic acid | 500 ml | Br | BrH
solvent | acetic acid | 1000 ml | C(C)(=O)O | C2H4O2
product | 4-(4-Fluorophenyl)-4-phenylbut-3-enoic Acid | 47% yield | FC1=CC=C(C=C1)C(=CCC(=O)O)C1=CC=CC=C1 | C16H13FO2
